US07495007B2
Preparation of racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-cyclobutoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
To a mixture of racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-cyclobutoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (200 mg, 0.33 mmol) in methanol (4 mL) was added a solution of NaOH (40 mg, 1 mmol) in water (2 mL). The mixture was heated at 70° C. for 2 h, evaporated to remove most of methanol, cooled to room temperature, and acidified to “pH” 1 with aqueous HCl solution. The precipitate was collected and dried to give product as a white solid (175 mg). m/z (M+H)+: 583

reactant | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-methoxycarbonyl-cyclobutoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.33 mmol, 200 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC1(CCC1)C(=O)OC)=O)C1=C(C=CC(=C1)F)C)=O | C31H27Cl2FN2O5
reactant | NaOH | 1 mmol, 40 mg | [OH-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-hydroxycarbonyl-cyclobutoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 175 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC1(CCC1)C(=O)O)=O)C1=C(C=CC(=C1)F)C)=O | C30H25Cl2FN2O5
